US04487778
To a stirred solution of 6-cyano-4,5-dihydronaphtho[1,2-b]-thiophene (4.1 g, 0.019 mole) in 75 ml of ethylene glycol, under a nitrogen atmosphere, was added potassium hydroxide [12.5 g, 0.19 mole). The reaction mixture was heated at 156°±5° for 18 hours. The cooled reaction mixture was diluted with 200 ml of cold water. The mixture was extracted with two 50 ml portions of diethyl ether. The aqueous layer was acidified with concentrated hydrochloric acid. The mixture was cooled and extracted with three 200 ml portions of diethyl ether. The extracts were combined, dried with magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give 4.4 grams of 4,5-dihydronaphtho[1,2-b]thiophen-6-carboxylic acid; mp 182°-184°.

reactant | 6-cyano-4,5-dihydronaphtho[1,2-b]-thiophene | 0.019 mole, 4.1 g | C(#N)C1=C2CCC3=C(SC=C3)C2=CC=C1 | C13H9NS
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethylene glycol | 75 ml | C(CO)O | C2H6O2
solvent | water | 200 ml | O | H2O
product | 4,5-dihydronaphtho[1,2-b]thiophen-6-carboxylic acid | 4.4 grams | S1C2=C(C=C1)CCC=1C(=CC=CC12)C(=O)O | C13H10O2S
